US07858640B2
[8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-yloxy]acetic Acid
A solution of [8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-yloxy]acetic acid methyl ester (0.20 g), methanol (5.0 mL), water (1.0 mL) and 5.0 M aqueous sodium hydroxide solution (1.0 mL) was stirred at room temperature for 3 hours. The pH of the solution was adjusted to 1 by the addition of 1.0 M hydrochloric acid and the methanol removed under reduced pressure. The residue was purified by preparative reverse-phase HPLC using a gradient over 30 minutes of acetonitrile in water (40% to 98% of organic modifier) to afford title compound as a yellow-green solid, 0.025 g.

reactant | [8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-yloxy]acetic acid methyl ester | 0.20 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)OC1=CC=C(C=C1)Cl)C)=O | C20H17Cl2NO4
reactant | methanol | 5.0 mL | CO | CH4O
reactant | sodium hydroxide | 5.0 M, 1.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | water | 1.0 mL | O | H2O
product | [8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)OC1=CC=C(C=C1)Cl)C)OCC(=O)O | C19H15Cl2NO4
